US07276526B2
1-(2-Chloro-4-methoxy-5-methly-phenyl)-propan-1-one
In a three neck round bottom flask equipped with a reflux condenser and stir bar under N2 atmosphere was added finely pulverized aluminum trichloride (8.7 g, 65.2 mmol) to dichloroethane (22 mL). The solution was chilled to 0° C. Propionyl chloride was added dropwise 4.9 mL (57 mmol)and the mixture was stirred vigorously for 10 min. 4-Chloro-2-methoxy-1-methyl-benzene (8.5 g, 54.3 mmol) was then added dropwise with cooling to maintain internal solution temperature below 20° C. For less reactive aromatic rings the arene itself was used as solvent. The mixture was stirred for one hour with gradual warming to room temperature, then heated to 50° C. overnight. When starting material was not visible by TLC the reaction was cooled to room temperature. The reaction was quenched by pouring into ice and the layers separated in a separatory funnel. The aqueous phase was extracted once with chloroform. The combined organic layers were washed with 10 N HCl, water, aqueous NaHCO3 (saturated) then dried (sodium sulfate), and concentrated in vacuo. The product was then purified by chromatography on silica using an ethyl acetate/hexane gradient. Yield: 5.41 g white crystalls (51%). 1H NMR (300 MHz, CDCl3) •1.28 (t, CH3, 3H, J=7.0 Hz), 2.27 (s, CH3, 3H), 3.06 (q, CH2, 2H, J=7.0 Hz) 3.95 (s, —OCH3, 3 H), 6.91 (s, Ar, 1H, ), 6.95 (s, Ar, 1H), 7.50 (s, Ar, 1H).

reactant | aluminum trichloride | 65.2 mmol, 8.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | dichloroethane | 22 mL | ClC(C)Cl | C2H4Cl2
reactant | Propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | 4-Chloro-2-methoxy-1-methyl-benzene | 54.3 mmol, 8.5 g | ClC1=CC(=C(C=C1)C)OC | C8H9ClO
product | 1-(2-Chloro-4-methoxy-5-methly-phenyl)-propan-1-one | ClC1=C(C=C(C(=C1)OC)C)C(CC)=O | C11H13ClO2
